US07951828B1
Methyl N-[4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl benzoyl]-N-(2-pyrimidinyl)carbamate (Compound of the present invention No. 5-014)
In 0.02 g of 55% oily sodium hydride suspended in 3 mL of tetrahydrofuran, a solution of 0.17 g of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methyl-N-(2-pyrimidinyl)benzoic acid amide synthesized similarly to Step 5 of Synthetic Example 1 in 3 mL of tetrahydrofuran was added dropwise. After the completion of the addition dropwise, it was continued to stir at the same temperature for 10 minutes, then 0.05 g of methyl chloroformate was added, and continued to stir at the same temperature for 1 hour. After the completion of the reaction, the reaction mixture was poured in 10 mL of ice water, extracted with ethyl acetate (10 mL×2), the organic phase was dehydrated with and dried over saturated sodium chloride aqueous solution and then anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with ethyl acetate to obtain 0.11 g of the aimed product as colorless resinous substance.

reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methyl-N-(2-pyrimidinyl)benzoic acid amide | 0.17 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NC2=NC=CC=N2)C=C1)C)C(F)(F)F | C22H15Cl2F3N4O2
reactant | methyl chloroformate | 0.05 g | ClC(=O)OC | C2H3ClO2
solvent | sodium hydride | 0.02 g | [H-].[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | Methyl N-[4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl benzoyl]-N-(2-pyrimidinyl)carbamate | 0.11 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)N(C(OC)=O)C2=NC=CC=N2)C=C1)C)C(F)(F)F | C24H17Cl2F3N4O4
